US05451601
0.92 g of potassium carbonate, 0.22 g of sodium iodide and then 0.63 g of 2-hydroxymethyl-(S)-pyrrolidine are successively added to a solution of 1.8 g of methyl 2-(3-bromopropoxy)phenylacetate in 20 cm3 of acetonitrile. The reaction mixture is heated at 70° C. for 5 hours and then, after cooling, diluted with 100 cm3 of dichloromethane, washed with 100 cm3 of water and then with 100 cm3 of a saturated aqueous solution of sodium chloride, dried over magnesium sulphate and concentrated to dryness under reduced pressure (2.7 kPa). The residue is chromatographed on a Merck silica gel column (particle size 0.04-0.06 mm, diameter 3 cm, height 30 cm), eluting under a nitrogen pressure of 0.4 bar with an ethyl acetate and methanol mixture (90/10 by volume) and collecting fractions of 100 cm3. Fractions 7 to 20 are pooled and concentrated to dryness under reduced pressure (2.7 kPa). 1.55 g of methyl 2-[3-(2-hydroxymethyl-(S)-1-pyrrolidinyl)propoxy]-phenylacetate are obtained in the form of an oil.

reactant | potassium carbonate | 0.92 g | C([O-])([O-])=O.[K+].[K+]
reactant | sodium iodide | 0.22 g | [I-].[Na+]
reactant | 2-hydroxymethyl-(S)-pyrrolidine | 0.63 g | OC[C@H]1NCCC1 | C5H11NO
reactant | methyl 2-(3-bromopropoxy)phenylacetate | 1.8 g | BrCCCOC1=C(C=CC=C1)CC(=O)OC | C12H15BrO3
solvent | acetonitrile | 20 cm3 | C(C)#N | C2H3N
solvent | dichloromethane | 100 cm3 | ClCCl | CH2Cl2
product | methyl 2-[3-(2-hydroxymethyl-(S)-1-pyrrolidinyl)propoxy]-phenylacetate | 1.55 g | OC[C@H]1N(CCC1)CCCOC1=C(C=CC=C1)CC(=O)OC | C17H25NO4
